US07678795B2
(1S,8R)-5-(4-Chloro-2-methyl-phenyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene
yellow solid. MS (EI): 312.2 (M+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo [2.2.1]heptane-2,3-dione, [2-(4-Chloro-2-methyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo [2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | [2-(4-Chloro-2-methyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=C(C=C1)Cl)C | C11H14ClO4P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-5-(4-Chloro-2-methyl-phenyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene | ClC1=CC(=C(C=C1)C=1N=NC=2[C@]3(CC[C@@H](C2C1)C3(C)C)C)C | C19H21ClN2
